US05536725
This compound is prepared in a manner analogous to that of Step D of Example 7, using 9.5 grams (0.040 mole) of 1-chloro-2-iodobenzene, 1.1 grams (0.044 mole) of magnesium turnings, 6.2 grams (0.040 mole) of 1,4-cyclohexanedione mono-ethylene ketal, and about 100 mL of aqueous 10% hydrochloric acid in about 95 mL of tetrahydrofuran, yielding 1-(2-chlorophenyl)-1-cyclohexen-4-one.

reactant | 1-chloro-2-iodobenzene | 0.040 mole, 9.5 grams | ClC1=C(C=CC=C1)I | C6H4ClI
reactant | magnesium | 0.044 mole, 1.1 grams | [Mg] | Mg
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 0.040 mole, 6.2 grams | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | about 95 mL | O1CCCC1 | C4H8O
product | 1-(2-chlorophenyl)-1-cyclohexen-4-one | ClC1=C(C=CC=C1)C1=CCC(CC1)=O | C12H11ClO
